US08809371B2
A DMF (2 ml) solution containing 3-bromoquinolin-8-amine (223 mg), dimethyl sulfate (189 mg), potassium carbonate (415 mg), and sodium iodide (20 mg) were added to a tube and the tube was sealed, followed by stirring at 95° C. for 17 hours. The reaction solution was cooled to room temperature, ethyl acetate was added, an insoluble precipitate was removed, and the organic layer was washed with 1M hydrochloric acid, water, and saturated saline. Subsequently, the organic layer was dried over anhydrous sodium sulfate, the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=0:1 to 1:1), and a yellow solid of 3-bromo-N-methylquinolin-8-amine (52 mg) was thus obtained.

reactant | 3-bromoquinolin-8-amine | 223 mg | BrC=1C=NC2=C(C=CC=C2C1)N | C9H7BrN2
reactant | dimethyl sulfate | 189 mg | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 415 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 20 mg | [I-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 3-bromo-N-methylquinolin-8-amine | 52 mg | BrC=1C=NC2=C(C=CC=C2C1)NC | C10H9BrN2
